US05051423
1-[[2-[4-(1H-Imidazol-1-yl)phenoxy]ethyl]amino]-3-[4-(2-methoxyethyl)phenoxy]-2-propanol
Dissolve 6.36 g (.013 mol) 1-[[2-[4-(1H-imidazol-1-yl)phenoxy]ethyl](phenylmethyl)amino]-3-[4-(2-methoxyethyl)phenoxy]-2-propanol in 50 mL 5 M methanolic HCl and remove the solvents in vacuo. Dissolve the residue in glacial acetic acid with 0.86 g10% palladium hydroxide on carbon. The reaction mixture is hydrogenated under 52 psi H2 on a Parr Hydrogenator. Follow the progress of the reaction by thin-layer chromatography on silica gel (acetonitrile:ammonia,9:1). At the completion of the reaction, the catalyst is filtered and the solvents are removed in vacuo. The resulting oil is chromatographed on alumina (activity III) using 2% methanol in methylene chloride to provide the title compound.

reactant | 1-[[2-[4-(1H-imidazol-1-yl)phenoxy]ethyl](phenylmethyl)amino]-3-[4-(2-methoxyethyl)phenoxy]-2-propanol | .013 mol, 6.36 g | N1(C=NC=C1)C1=CC=C(OCCN(CC(COC2=CC=C(C=C2)CCOC)O)CC2=CC=CC=C2)C=C1 | C30H35N3O4
solvent | HCl | 5 M, 50 mL | Cl | ClH
product | 1-[[2-[4-(1H-Imidazol-1-yl)phenoxy]ethyl]amino]-3-[4-(2-methoxyethyl)phenoxy]-2-propanol | N1(C=NC=C1)C1=CC=C(OCCNCC(COC2=CC=C(C=C2)CCOC)O)C=C1 | C23H29N3O4
